US05338855
32(a) 5-(4-Acetoxybenzylidene)thiazolidine-2,4-dione
A mixture comprising 200 g of p-hydroxybenzaldehyde, 229 g of thiazolidine-2,4-dione, 280 g of sodium acetate and 660 ml of dimethylacetamide was stirred at 150° for 1 hour. It was then cooled, and 540 ml of dimethylacetamide and 370 ml of acetic anhydride were added to the reaction mixture. The resulting mixture was then stirred at 50° C. for 1.5 hours, after which it was poured into water. The solid which precipitated was collected by filtration, washed with water, and dried in vacuo, to give 390 g of the title compound.

reactant | p-hydroxybenzaldehyde | 200 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | thiazolidine-2,4-dione | 229 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | sodium acetate | 280 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 370 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
solvent | dimethylacetamide | 540 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 660 ml | CC(=O)N(C)C | C4H9NO
product | 5-(4-Acetoxybenzylidene)thiazolidine-2,4-dione | 390 g | C(C)(=O)OC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C12H9NO4S
